US08603498B2
Synthesis of the (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)-acetic acid (With the 5 Reference on the Above Schema)
Marketed DL-malic acid (with the 4 reference on the above schema) is protected in the dioxolane form in toluene reflux, in the presence of 2,2-dimethoxypropane. The reaction is quantitative. The obtained product (with the 5 reference in the above schema) is directly engaged in the following step.

reactant | DL-malic acid | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | dioxolane | O1COCC1 | C3H6O2
reactant | 2,2-dimethoxypropane | COC(C)(C)OC | C5H12O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-yl)-acetic acid | CC1(OC(C(O1)CC(=O)O)=O)C | C7H10O5
